Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/Vomiting 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ male with a history of hepatitis B currently on
tenofovir for the past 2 months presents with nausea vomiting.
Patient states he drank an excessive amount of alcohol last 
night
which is unusual for him woke up this morning has been vomiting
repeatedly since that time and is now began to vomit up
coffee-ground emesis. He has mild abdominal discomfort 
associated
with. No fevers chills chest pain or shortness of breath. He was
in normal state of health until this morning. No trauma. No
history of varices. 

In the ED, initial VS were: 99.0 118 111/65 18 99% RA 
Exam notable for: 
Patient is ill-appearing
Tachycardic
Soft mild epigastric discomfort to palpation
Clear to auscultation bilaterally
Rectal is brown stool guaiac negative
 
Labs showed:  
initial CBC- WBC 34, hemoconc 17.8, K hemolyzed 10, creatinine
1.3, with LFTs- ALT 185/AST 195
Repeat labs with K of 5.9, troponin negative
K repeated again with 5
Lactate 6.1->normalized to 1.7
Utox and serum tox negative 
Repeat chemistry panel with K 4.7, creatinine 0.9

Imaging showed: CT abdomen with no acute process, does have
segmental thickening of ascending colon without inflammation
(annl non urgent workup suggested)
 
Consults: GI- agree with infectious workup, c/f MW tear or
perforated ulcer, start IV PPI BID 

Patient received: IV Zofran, IV LR 2 L, started on IV NS
afterwards, also received IV PPI x2
 
Transfer VS were: Temp 100.1  89 110/65 18 99% RA 

On arrival to the floor, patient reports feeling much better. He
reports above history, had been off all alcohol since starting
Viread 2 months ago. He went out with friends on ___
evening, drank alcohol >15 drinks from around 5 pm to ___ pm. 
The
next morning, he started vomiting around 8 AM. He vomited at 
home
about 5 times, was clear/food stuff. He came in to the ED, there
he had 2 "black" vomits. He denies fevers. No hx of alcohol
withdrawal. 

 
Past Medical History:
-Hepatitis B
 
Social History:
___
Family History:
no family hx of HBV, cirrhosis, or liver cancer.

 
Physical Exam:
ADMISSION EXAM
==================
VS: 98 BP 142/77 HR 80 RR 14 98 RA 
GENERAL: NAD, well appearing, sitting up 
HEENT:PERRL, anicteric sclera, pink conjunctiva, MMM, trace
petechiae in hard palate 
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmur
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
ABDOMEN: nondistended, nontender in all quadrants
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis
or tremors 
SKIN: warm and well perfused, no rashes 
DISCHARGE EXAM
==================
vs: 97.2PO 116 / 69 70 18 98 ra 
GENERAL: NAD, well appearing, sitting up 
HEENT:PERRL, anicteric sclera, pink conjunctiva, MMM, trace
petechiae in hard palate 
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmur
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
ABDOMEN: nondistended, nontender in all quadrants
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis
or tremors 
SKIN: warm and well perfused, no rashes 
 
Pertinent Results:
ADMISSION LABS
==================
___ 01:20PM BLOOD WBC-34.4*# RBC-6.66* Hgb-17.8* Hct-57.8* 
MCV-87 MCH-26.7 MCHC-30.8* RDW-12.8 RDWSD-39.7 Plt ___
___ 01:20PM BLOOD Neuts-77* Bands-0 Lymphs-16* Monos-6 
Eos-0 Baso-0 ___ Myelos-1* AbsNeut-26.49* 
AbsLymp-5.50* AbsMono-2.06* AbsEos-0.00* AbsBaso-0.00*
___ 01:20PM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+* 
Burr-1+* Tear Dr-1+*
___ 03:43PM BLOOD ___ PTT-26.6 ___
___ 01:20PM BLOOD Glucose-97 UreaN-19 Creat-1.3* Na-139 
K->10.0* Cl-98 HCO3-10* AnGap-30*
___ 01:20PM BLOOD ALT-185* AST-195* AlkPhos-97 TotBili-0.3
___ 01:20PM BLOOD Lipase-31
___ 02:55PM BLOOD cTropnT-<0.01
___ 02:55PM BLOOD Triglyc-106
___ 02:55PM BLOOD Osmolal-307
___ 06:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:16PM BLOOD Lactate-1.7
___ 05:25PM URINE Color-Straw Appear-Clear Sp ___
___ 05:25PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-40* Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 05:25PM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE Epi-0
___ 05:25PM URINE CastGr-3* CastHy-4*
___ 05:50AM BLOOD WBC-20.1* RBC-4.66# Hgb-12.9*# Hct-38.8*# 
MCV-83 MCH-27.7 MCHC-33.2 RDW-12.6 RDWSD-38.1 Plt ___

MICRO LABS:
==========
___ CULTURE-FINALEMERGENCY WARD 
NEGATIVE

IMAGING:
=======
CXR (___): No acute cardiopulmonary process.

CTAP w/ contrast (___): 1. No acute intrathoracic or 
intra-abdominal process, no findings to explain
patient's symptoms. 2. Segmental, eccentric wall thickening of 
the ascending colon without
surrounding inflammation.  Additional workup is suggested which 
can be done by direct visualization or potentially MRE to 
exclude underlying lesion.

DISCHARGE LABS:
==============
___ 05:50AM BLOOD Neuts-78.1* Lymphs-11.6* Monos-9.4 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-15.70* AbsLymp-2.33 
AbsMono-1.88* AbsEos-0.00* AbsBaso-0.02
___ 05:50AM BLOOD ___ PTT-25.6 ___
___ 05:50AM BLOOD Glucose-96 UreaN-14 Creat-0.9 Na-144 
K-4.1 Cl-108 HCO3-21* AnGap-15
___ 05:50AM BLOOD ALT-84* AST-52* AlkPhos-71 TotBili-0.2
___ 05:50AM BLOOD Albumin-3.5 Calcium-8.5 Phos-3.0 Mg-1.6
 
Brief Hospital Course:
SUMMARY
===========
___ M with hx of hepatitis B on tenofovir, presenting with 1 
day of coffee ground emesis after etoh use, concerning for 
___. 

ACTIVE ISSUES
================
#Nausea/Vomiting:
#Coffee Ground Emesis: likely in setting of alcohol use and 
retching. He was treated with hx most consistent with 
___ given coffee ground emesis. He was seen by GI who 
felt that inpatient EDG was not necessary. He was treated with 
IV fluids and Zofran with resolution of the nausea and vomiting. 
He was tolerating oral diet without issues prior to discharge. 
He was additionally treated with IV pantoprazole which was 
transitioned to oral pantoprazole 40 daily which he will 
continue at home. He was scheduled for follow-up with 
gastroenterology for outpatient endoscopy.

#Alcohol use: Did not have significant prior etoh use to this 
episode, no prior history of etoh withdrawl, and last drink 
around ___ ___ ___. No signs of withdrawal during 
hospitalization. He had a transaminitis which down-trended with 
IVF.

#Hypotension: SBP in 100s in clinic, now improved to 120s with 
IVF.

#Elevated Hgb: hgb 17.8 on admission, likely in setting of 
hypovolemia, given 2L IVF, and hgb down-trended to 12.9. Other 
than the coffee ground emesis, did not have dark stools or 
hematochezia.

#Leukocytosis: WBC notably 34, likely elevated in setting of 
hemoconcentration, downtrended to 20.1 with IVF. Imaging was 
reassuring for no evidence of perforated ulcer. No fevers or 
localizing signs of infection. 

#Metabolic alkalosis: likely in the setting of vomiting, 
improved with IV fluids.

CHRONIC ISSUES
=========================
#Hepatitis B: continue tenofovir

#TRANSITIONAL ISSUES
=========================
#New meds: pantoprazole 40 daily 
#Changed meds: none
#Stopped meds: none
#Incidental findings: CT abdomen with Segmental, eccentric wall 
thickening of the ascending colon without surrounding 
inflammation. Additional workup is suggested which can be done 
by direct visualization or potentially MRE to exclude underlying 
lesion. 
#Labs upon discharge: wbc 20.1, hgb 12.9, Cr 0.9, mg 1.6, inr 
1.4, ast 52, alt 84. 

#Follow-up: PCP, GI
[ ] Endoscopy to rule out other causes of coffee ground emesis- 
esophagitis/gastritis, gastric/peptic ulcer
[ ] Colonoscopy to further evaluate incidentally found wall 
thickening of ascending colon
[ ] Please recheck CBC, chem 10, LFTs at PCP visit to ensure 
labs continue to normalize with improved po intake.

#CODE: Full (presumed) 
#CONTACT: ___ (cousin) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tenofovir Disoproxil (Viread) 300 mg PO DAILY 

 
Discharge Medications:
1.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth every 8 
hours Disp #*30 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Tenofovir Disoproxil (Viread) 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=============
-___ tear
-Alcohol use

SECONDARY
=============
-Hepatitis B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ because you were vomiting blood. 
You underwent a cat scan which was reassuring that you did not 
have any holes in the GI tract. The blood is most likely caused 
by a tear in the esophagus. You were treated with IV fluids, 
nausea medications, and a new medication called pantoprazole. 
You were also found to have an area of thickening in the colon 
which should be followed up with a gastroenterologist. 

What should you do when you leave the hospital?
- Please follow-up with the appointments below, including the 
gastroenterologist to get a scope.
- Please continue to take the pantoprazole and your other 
medications as prescribed.

If you have additional bloody vomiting, dark stools or blood in 
the stool, abdominal pain, fevers, please seek urgent medical 
attention. 

It was a pleasure taking care of you.
We wish you the best,
-your ___ care team 
 
Followup Instructions:
___